US07157487B2
To a solution of (2R,5S)-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one (5.08 g, 25 mmol) in THF (30 ml), lithium diisopropylamide (a 2.0M solution in THF, 13.1 ml, 26.3 mmol) was added dropwise at −78° C. under stirring. After the reaction mixture was stirred at the same temperature for 15 minutes, methyl iodide (7.78 ml, 125 mmol) was added thereto and stirring was conducted further for 30 minutes at −40° C. The reaction mixture was poured in an ice-saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (middle pressure Yamazen, linear gradient of n-hexane/ethyl acetate form 4:1 to 1:1, 30 ml/min, φ 50 mm×300 mm, range 0.32) to give (2R,5S,7S)-7-methyl-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one (3.8 g, 70%) as a colorless oil.

reactant | (2R,5S)-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one | 25 mmol, 5.08 g | C1(=CC=CC=C1)[C@@H]1N2C(CC[C@H]2CO1)=O | C12H13NO2
reactant | methyl iodide | 125 mmol, 7.78 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
product | (2R,5S,7S)-7-methyl-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one | 3.8 g, 70% | C[C@H]1C[C@H]2CO[C@@H](N2C1=O)C1=CC=CC=C1 | C13H15NO2
